US07649104B2
In a 2 L-reaction flask equipped with a rectification column, 106 g (0.5 mol) of 2-phenyl-4-cyanomethyl-5-ethyl-1,2,3-triazole, 91 g (0.5 mol) of 1,3,4-trimethylpyrazol-5-carboxylic acid ethyl ester, 530 g of heptane, and 106 g of diethylene glycol dimethyl ether were added, then azeotropic dehydration was carried out by heating at 90 to 95° C. Thereafter 61.7 g (0.55 mol) of potassium-tert-butoxide was carefully added under nitrogen atmosphere, then the resulting solution was heated at 95° C. and reacted for 15 hours while removing the eluent from the rectification column. After cooling to 30° C. or less, 3000 g of water was added to separate out heptane phase, and the resulting aqueous phase was further washed with 600 g of heptane to separate into phases. A quantitative analysis of the obtained aqueous phase with liquid chromatography showed that the aqueous phase contained 118.5 g (yield 68%) of 2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethyl-5-pyrazolyl)-3-oxopropionitrile. The aqueous solution was warmed at 40° C., pH was adjusted to 1 by adding 35% hydrochloric acid with stirring. The crystal obtained by cooling to 15° C. over 2 hours was filtered. The crystal cake was washed three times with 200 ml of water and then dried to obtain 116 g (yield 66.5%) of 2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethyl-5-pyrazolyl)-3-oxopropionitrile (melting point 119° C.).

reactant | 2-phenyl-4-cyanomethyl-5-ethyl-1,2,3-triazole | 0.5 mol, 106 g | C1(=CC=CC=C1)N1N=C(C(=N1)CC#N)CC | C12H12N4
reactant | 1,3,4-trimethylpyrazol-5-carboxylic acid ethyl ester | 0.5 mol, 91 g | C(C)OC(=O)C1=C(C(=NN1C)C)C | C9H14N2O2
reactant | heptane | 530 g | CCCCCCC | C7H16
reactant | potassium-tert-butoxide | 0.55 mol, 61.7 g | CC(C)([O-])C.[K+]
solvent | diethylene glycol dimethyl ether | 106 g | COCCOCCOC | C6H14O3
product | 2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethyl-5-pyrazolyl)-3-oxopropionitrile | 118.5 g, yield 68% | C1(=CC=CC=C1)N1N=C(C(=N1)C(C#N)C(=O)C1=C(C(=NN1C)C)C)CC | C19H20N6O
